US07259177B2
511 mg of cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)cyclohexanecarbaldehyde, 0.9 ml of HOAc and 310 mg of tert-butyl (S)-valinate are dissolved in 5 ml of abs. dichloromethane. 500 mg of molecular sieve 4 Å are then added, and the suspension is cooled to 0° C. 414 mg of sodium triacetoxyborohydride are added a little at a time. This suspension is stirred at 0° C. for 2 h, 3 ml of saturated NH4Cl solution are then added and the suspension is stirred for a further 10 min. In each case 10 ml of water and dichloromethane are added, the phases are separated, the aqueous phase is extracted with dichloromethane and the combined organic phases are dried over MgSO4 and concentrated, which gives 760 mg of tert-butyl (S)-3-methyl-2-{[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)cyclohexylmethyl]-amino}butyrate. C28H42N2O4 (470.66); MS (ESI): 471.50 (MH+).

reactant | cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)cyclohexanecarbaldehyde | 511 mg | CC1=C(N=C(O1)C1=CC=C(C=C1)C)CO[C@H]1C[C@H](CCC1)C=O | C19H23NO3
reactant | tert-butyl (S)-valinate | 310 mg | N[C@@H](C(C)C)C(=O)OC(C)(C)C | C9H19NO2
reactant | sodium triacetoxyborohydride | 414 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NH4Cl | 3 ml | [NH4+].[Cl-]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
solvent | HOAc | 0.9 ml | CC(=O)O | C2H4O2
product | tert-butyl (S)-3-methyl-2-{[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)cyclohexylmethyl]-amino}butyrate | 760 mg | CC([C@@H](C(=O)OC(C)(C)C)NC[C@@H]1C[C@@H](CCC1)OCC=1N=C(OC1C)C1=CC=C(C=C1)C)C | C28H42N2O4
